US07595320B2
(3-Bromophenyl)hydrazine hydrochloride (10 g, 44 mmol, 1 eq.), benzophenone (8.14 g, 44 mmol, 1 eq.) and ethanol (100 mL) are placed in a 250 mL round-bottomed flask. 2 mL of concentrated sulfuric acid are then added. The resulting suspension is heated at a temperature in the region of 80° C. After 30 minutes at this temperature, the suspension becomes a solution. The solution is stirred at this temperature for 18 hours, and is then concentrated to 95%. The residue is diluted with ethyl acetate and washed with sodium hydrogen carbonate solution. After drying over magnesium sulfate, the solution is concentrated and the residue is purified by chromatography on a column of silica gel, eluting with an ether/heptane mixture (3/97 by volume). 15 g (95%) of N-benzhydrylidene-N′-(3-bromophenyl)hydrazine are thus obtained.

reactant | (3-Bromophenyl)hydrazine hydrochloride | 44 mmol, 10 g, 1 eq. | Cl.BrC=1C=C(C=CC1)NN
reactant | benzophenone | 44 mmol, 8.14 g, 1 eq. | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | N-benzhydrylidene-N′-(3-bromophenyl)hydrazine | 15 g, 95% | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NNC1=CC(=CC=C1)Br | C19H15BrN2
